US08703797B2
2-Chloro-4,5,8-trimethylquinoline:
A solution of 4,5,8-trimethylquinolin-2-ol (2.40 g, 12.8 mmol) and 1.4 mL (1.2 eq) of POCl3 in toluene was reacted as outlined in Scheme 1 above to yield the desired title compound (2.2 g, 85%). Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ ppm 2.68 (s, 3 H) 2.82 (s, 3 H) 2.85 (s, 3 H) 7.12 (s, 1 H) 7.18 (d, J=7.33 Hz, 1 H) 7.39 (d, 1 H).

reactant | 4,5,8-trimethylquinolin-2-ol | 12.8 mmol, 2.40 g | CC1=CC(=NC2=C(C=CC(=C12)C)C)O | C12H13NO
reactant | POCl3 | 1.4 mL, 1.2 eq | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4,5,8-trimethylquinoline | 2.2 g, 85% | ClC1=NC2=C(C=CC(=C2C(=C1)C)C)C | C12H12ClN
